US08629157B2
Synthesis of 1-(4-Hydroxymethyl-phenyl)-5-oxo-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide
1-(4-Methoxymethyl-phenyl)-5-oxo-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide (0.130 g; 0.350 mmol) is diluted with ethanethiol (1.988 mL; 26.880 mmol) and cooled to 0° C. To this solution is added aluminum trichloride (0.793 g; 5.950 mmol). The solution is stirred for 3 hours, slowly warming to room temperature. The solution is added dropwise to a solution of water containing concentrated hydrochloric acid. The aqueous is extracted with ethyl acetate. The organics are combined and washed with brine, dried over sodium sulfate, filtered and concentrated. Purification by preparative HPLC afforded title compound. ESI m/z 358 [M+H]+

reactant | 1-(4-Methoxymethyl-phenyl)-5-oxo-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | 0.350 mmol, 0.130 g | C(C)(C)(C)C1=CC(=NO1)NC(=O)C1N(C(CC1)=O)C1=CC=C(C=C1)COC | C20H25N3O4
reactant | ethanethiol | 26.880 mmol, 1.988 mL | C(C)S | C2H6S
reactant | aluminum trichloride | 5.950 mmol, 0.793 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | water | O | H2O
product | 1-(4-Hydroxymethyl-phenyl)-5-oxo-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)C1N(C(CC1)=O)C1=CC=C(C=C1)CO | C19H23N3O4
